US04001227
A 9 g. portion of 2-amino-3-chlorobenzyl alcohol was combined with 15 ml. of carbon disulfide and 5 g. of potassium hydroxide in 100 ml. of ethanol. The reaction mixture was stirred at reflux temperature overnight, and was then dumped into ice. After the aqueous mixture was acidified with hydrochloric acid, the product was extracted from the mixture with methylene chloride and was purified by chromatography over alumina with chloroform-hexane as the eluent. After recrystallization from methanol, 3,2 g. of 8-chloro-1,4-dihydro-2H-3,1-benzothiazin-2-thione, m.p. 125°-126° C., was obtained.

reactant | 2-amino-3-chlorobenzyl alcohol | NC1=C(CO)C=CC=C1Cl | C7H8ClNO
reactant | carbon disulfide | C(=S)=S | CS2
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-1,4-dihydro-2H-3,1-benzothiazin-2-thione | ClC1=CC=CC=2CSC(NC21)=S | C8H6ClNS2
